US07824746B2
Bisphenol F epoxy resin (Nihon Kayaku Co., Ltd. RE-404P, epoxy equivalent 160 g/eq., amount of hydrolysis 30 ppm) was dissolved in toluene, and added dibutylhydroxy toluene as the polymerization inhibitor therein, then temperature was risen up to 60° C. Thereafter, acrylic acid in 100% equivalent amount to epoxy group was added, further temperature was risen up to 80° C. Then trimethylammonium chloride as the reaction catalyst was added thereto, followed by stirring at 98° C. for about 50 hours. The resultant reaction mixture was washed with water, and toluene was distilled out to obtain epoxy acrylate of bisphenol F (Epoxyacrylate C).

reactant | dibutylhydroxy toluene | C(CCC)C1=C(C(=C(C=C1)C)O)CCCC | C15H24O
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | trimethylammonium chloride | [Cl-].C[NH+](C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | bisphenol F | C1=CC=C(C(=C1)CC2=CC=CC=C2O)O | C13H12O2
